US05077409
5-Methyl-3-[[2-[[[3-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]thiazolium bromide
A mixture of 2.3 g of N-[2-(bromomethyl)phenyl]-3-(tetradecyloxy)benzeneacetamide and 2.21 g of 5-methylthiazole in 40 ml of toluene is refluxed for 2.5 hours under argon. The solvent is evaporated to a residue which is mixed with ether and the resulting solid collected by centrifugation, washed with ether then dried to give 2.7 g of the desired product as a white powder, m.p. 94°-100° C.

reactant | N-[2-(bromomethyl)phenyl]-3-(tetradecyloxy)benzeneacetamide | 2.3 g | BrCC1=C(C=CC=C1)NC(CC1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
reactant | 5-methylthiazole | 2.21 g | CC1=CN=CS1 | C4H5NS
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-3-[[2-[[[3-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]thiazolium bromide | 2.7 g | [Br-].CC1=C[N+](=CS1)CC1=C(C=CC=C1)NC(CC1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C33H46N2O2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-16-22-37-31-20-17-18-29(23-31)24-33(36)34-32-21-15-14-19-30(32)26-35-25-28(2)38-27-35;/h14-15,17-21,23,25,27H,3-13,16,22,24,26H2,1-2H3;1H
